US08258141B2
ZO2: N-((1S,2R,3S,4R)-4-{2-((R)-3-Amino-pyrrolidin-1-yl)-6-[2,2-bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide
A solution of acetic acid {(1S,2R,3S,4R)-4-[6-[2,2-bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-2-((R)-3-tert-butoxycarbonylamino-pyrrolidin-1-yl)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester (Intermediate ZO1) in MeOH (˜0.5M) is treated with an equal volume of 4M HCl in dioxane and stirred at room temperature for 2 hours. The solvent is removed in vacuo and purification is carried out by column chromatography/crystallisation to afford the title compound.

reactant | acetic acid {(1S,2R,3S,4R)-4-[6-[2,2-bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-2-((R)-3-tert-butoxycarbonylamino-pyrrolidin-1-yl)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester | ClC1=CC=C(C=C1)C(CNC1=C2N=CN(C2=NC(=N1)N1C[C@@H](CC1)NC(=O)OC(C)(C)C)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)(O)C1=CC=C(C=C1)Cl | C37H44Cl2N8O8
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | ˜0.5M | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-((1S,2R,3S,4R)-4-{2-((R)-3-Amino-pyrrolidin-1-yl)-6-[2,2-bis-(4-chloro-phenyl)-2-hydroxy-ethylamino]-purin-9-yl}-2,3-dihydroxy-cyclopentyl)-2-hydroxy-acetamide | N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(O)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C30H34Cl2N8O5
